US04814332
0.82 g of 1,3-bis[[p-(dimethylamino)-benzylidene]amino]-2-methylimidazolium chloride is suspended in 30 ml of ethanol, whereupon the suspension is treated with 0.3 g of 4-dimethylaminobenzaldehyde and 0.17 g of piperidine and heated to boiling under reflux. A deep red solution results. After 20 hours it is left to cool. The precipitated product is removed by filtration and re-precipitated from methylene chloride/ether. After recrystallization from toluene there is obtained 1,3-bis[[p-(dimethyl-amino)benzylidene]amino]-2-[p-(dimethylamino)styryl]imidazolium chloride as a red solid of melting point 238°-240°.

reactant | 1,3-bis[[p-(dimethylamino)-benzylidene]amino]-2-methylimidazolium chloride | 0.82 g | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)C)C=C1)C
reactant | 4-dimethylaminobenzaldehyde | 0.3 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | piperidine | 0.17 g | N1CCCCC1 | C5H11N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1,3-bis[[p-(dimethyl-amino)benzylidene]amino]-2-[p-(dimethylamino)styryl]imidazolium chloride | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)C=CC2=CC=C(C=C2)N(C)C)C=C1)C | InChI=1S/C31H36N7.ClH/c1-34(2)28-14-7-25(8-15-28)13-20-31-37(32-23-26-9-16-29(17-10-26)35(3)4)21-22-38(31)33-24-27-11-18-30(19-12-27)36(5)6;/h7-24H,1-6H3;1H/q+1;/p-1
